US04512991
2-Amino-5-chloro-3-formyl-6-(methylthio)pyrazine
In 3 ml of dimethylformamide there was dissolved 2-amino-5,6-dichloro-3-formylpyrazine (384 mg; 0.002 M), and the solution was cooled in an ice bath. Through the solution there was then bubbled methanethiol gas for 2 minutes. Triethylamine was added, and more methanethiol gas was bubbled through the solution for 3 minutes. The reaction mixture was stirred in the ice bath for 30 minutes and then at room temperature for 30 minutes. The solvent and methanethiol were then removed under nitrogen atmosphere, and the residue was treated with water. The product precipitated, was filtered, and washed with water (333 mg). Elemental Analysis for C6H6N3OSCl.

reactant | 2-amino-5,6-dichloro-3-formylpyrazine | 0.002 M, 384 mg | NC1=NC(=C(N=C1C=O)Cl)Cl | C5H3Cl2N3O
reactant | methanethiol | CS | CH4S
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-Amino-5-chloro-3-formyl-6-(methylthio)pyrazine | NC1=NC(=C(N=C1C=O)Cl)SC | C6H6ClN3OS
